US04801593
4-chloro-2-(2-chloroethyl)benzyl chloride (5 g), aniline (2.1 g) and triethylamine (5.7 g), were dissolved in chloroform (40 ml) and the mixture heated at reflux for 18 hr. The reaction mixture was cooled and washed with 2M sodium hydroxide solution (100 ml), 2M hydrochloric acid (100 ml) and water (100 ml), then dried (sodium sulphate) and evaporated to dryness in vacuo. The residue was chromatographed on silica gel to give the product, 6-chloro-2-phenyl-1,2,3,4-tetrahydroisoquinoline m.pt. 67°-70°.

reactant | 4-chloro-2-(2-chloroethyl)benzyl chloride | 5 g | ClC1=CC(=C(CCl)C=C1)CCCl | C9H9Cl3
reactant | aniline | 2.1 g | NC1=CC=CC=C1 | C6H7N
reactant | triethylamine | 5.7 g | C(C)N(CC)CC | C6H15N
solvent | chloroform | 40 ml | C(Cl)(Cl)Cl | CHCl3
product | 6-chloro-2-phenyl-1,2,3,4-tetrahydroisoquinoline | ClC=1C=C2CCN(CC2=CC1)C1=CC=CC=C1 | C15H14ClN
